US09107964B2
2.85 g (9.67 mmol equivalents) of diethyl 2-(2-benzyloxyethyl)malonate was dissolved in 20 mL of acetonitrile, 1.60 g (11.7 mmol equivalents) of potassium bicarbonate and 465 mg (11.7 mmol equivalents as formaldehyde) of paraformaldehyde were added thereto, and the mixture was stirred at room temperature (25° C.) overnight. After completion of the reaction, a 0.5 mol/L aqueous solution of hydrochloric acid was added dropwise to the reaction liquid, and the mixture was extracted three times with chloroform. The combined chloroform layers were dried with anhydrous magnesium sulfate and then concentrated under vacuum, and the obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=4/1) to give 2.78 g (8.76 mmol equivalents) of diethyl 2-(2-benzyloxyethyl)-2-hydroxymethylmalonate.

reactant | diethyl 2-(2-benzyloxyethyl)malonate | 9.67 mmol, 2.85 g | C(C1=CC=CC=C1)OCCC(C(=O)OCC)C(=O)OCC | C16H22O5
reactant | potassium bicarbonate | 11.7 mmol, 1.60 g | C([O-])(O)=O.[K+]
reactant | paraformaldehyde | 11.7 mmol, 465 mg | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | diethyl 2-(2-benzyloxyethyl)-2-hydroxymethylmalonate | 8.76 mmol, 2.78 g | C(C1=CC=CC=C1)OCCC(C(=O)OCC)(C(=O)OCC)CO | C17H24O6
